US08084448B2
B. (E)-3-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acrylic Acid
To a solution of (E)-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acrylic acid tert-butyl ester (2.2 g, 5.18 mmol) in THF (14 mL)/MeOH (7 mL) is added 3.5 mL (20.7 mmol) of 6N NaOH solution and the mixture is stirred at RT for 18 h. The solvent is removed under reduced pressure and water is added to the residue. The mixture is acidified with 1N HCl and is extracted with methylene chloride. The organic phase is washed with water and brine then is dried over sodium sulfate. The solvent is removed under reduced pressure to give the title compound as a reddish solid: ): (M−1)−=387.

reactant | (E)-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acrylic acid tert-butyl ester | 5.18 mmol, 2.2 g | C(C)(C)(C)OC(\C=C\C1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)OCC1=CC=CC=C1)=O | C22H24N2O6S
reactant | MeOH | 7 mL | CO | CH4O
reactant | NaOH | 20.7 mmol, 6N, 3.5 mL | [OH-].[Na+]
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | (E)-3-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acrylic Acid | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)/C=C/C(=O)O | C18H16N2O6S
